US09259470B2
Tetrahydro-2H-pyran-4-amine (0.20 g, 2.0 mmol) was added to 1-benzhydryl-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (0.12 g, 0.29 mmol) in DMA (3 mL) in a microwave vial. The mixture was heated at 120° C. for 1 hour in a microwave. The reaction mixture was diluted with water and extracted with EtOAc. The EtOAc was washed with water, twice with brine, dried over MgSO4, filtered, and evaporated to yield a crude product (0.09 g) as a film. This was chromatographed on a 10 g Biotage SNAP column with EtOAc. Fractions 9-20 contained a film (0.0764 g). This was triturated with water, dried, then triturated with hexane and dried to afford the desired 1-benzhydryl-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.072 g, 0.16 mmol, 57% yield) as a film. 1H NMR (400 MHz, CDCl3) δ 8.38 (d, 1H), 7.52 (s, 1H), 7.40-7.15 (m, 9H), 6.91 (d, 1H), 6.76-6.72 (m, 1H), 5.25-5.21 (m, 1H), 4.15-4.06 (m, 1H), 4.02-3.96 (m, 2H), 3.59-3.51 (m, 2H), 2.09-2.03 (m, 2H), 1.62-1.52 (m, 2H); m/z (APCI-pos) M+1=439.2.

reactant | Tetrahydro-2H-pyran-4-amine | 2.0 mmol, 0.20 g | O1CCC(CC1)N | C5H11NO
reactant | 1-benzhydryl-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.29 mmol, 0.12 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C23H19N3O3S
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 1-benzhydryl-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.16 mmol, 0.072 g, 57% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O | C27H26N4O2
